US08455475B2
8-(5-(Trifluoromethyl)pyrimidin-2-yl)-2,8-diazaspiro[4.5]decane (AMN-41)
TFA (1.5 ml) was added to a solution of tert-butyl 8-(5-(trifluoromethyl)pyrimidin-2-yl)-2,8-diazaspiro[4.5]decane-2-carboxylate (300 mg, 0.78 mmol, 1.0 eq.) in methylene chloride (6 ml) at 0° C. and the reaction mixture was stirred at 25° C. for 1 h. After completion of the reaction, the solvent was evaporated under reduced pressure to give the desired product as a yellow sticky solid which was directly used in the next step.

reactant | TFA | 1.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 8-(5-(trifluoromethyl)pyrimidin-2-yl)-2,8-diazaspiro[4.5]decane-2-carboxylate | 0.78 mmol, 300 mg, 1.0 eq. | FC(C=1C=NC(=NC1)N1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)(F)F | C18H25F3N4O2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | 8-(5-(Trifluoromethyl)pyrimidin-2-yl)-2,8-diazaspiro[4.5]decane | FC(C=1C=NC(=NC1)N1CCC2(CCNC2)CC1)(F)F | C13H17F3N4
